US07202245B2
A solution of 3-chloro-2-hydrazino-quinoxaline-6-carboxylic acid methyl ester (890 mg) in tetramethylorthocarbonate (10 mL) was heated at 100° C. for three hrs. After cooling to 23° C., the precipitated solid was isolated by filtration and rinsed with EtOAc, providing 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester as an orange solid. MS (M+H)+=293.2.

reactant | 3-chloro-2-hydrazino-quinoxaline-6-carboxylic acid methyl ester | 890 mg | COC(=O)C=1C=C2N=C(C(=NC2=CC1)NN)Cl | C10H9ClN4O2
reactant | tetramethylorthocarbonate | 10 mL | COC(OC)(OC)OC | C5H12O4
product | 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)Cl | C12H9ClN4O3
